US06720338B2
methyl (phenylsulfanyl)acetate
A room temperature solution of (phenylsulfanyl)acetic acid (8.4 g, 50.0 mmol) in methanol (100 mL) was treated with chlorotrimethylsilane (13 mL, 100.0 mmol), stirred for 16 hours, and concentrated. The concentrate was dissolved in 5:1/hexanes:diethyl ether, filtered through a pad of silica gel (80 g), rinsed with 5:1/hexanes:diethyl ether, and concentrated to provide the desired product.

reactant | (phenylsulfanyl)acetic acid | 50.0 mmol, 8.4 g | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | chlorotrimethylsilane | 100.0 mmol, 13 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | methanol | 100 mL | CO | CH4O
product | methyl (phenylsulfanyl)acetate | C1(=CC=CC=C1)SCC(=O)OC | C9H10O2S
